* C:\Users\david\Desktop\École\Université\Undergrad\Work\finalproject\Real\Transients\Draft1.asc
V1 a 0 4
V2 c b 2
V3 d e 6
R1 a b 3
R2 d c 5
R3 e 0 8
R4 d a 7
.op
.backanno
.end
